US09216968B2
Methyl 2-ethoxy-6-nitro-1H-benzimidazole-4-carboxylate
To a stirring solution of methyl 2-ethoxy-1H-benzimidazole-4-carboxylate (prepared as described in J. Med. Chem., 1993, 36, 2182) (500 mg) in conc. sulfuric acid (5 mL), potassium nitrate (275 mg) was added portion-wise under ice-cooling, and the mixture was stirred at room temperature for 2.5 hours. The reaction mixture was poured into ice, alkalified with aqueous sodium hydroxide solution, and extracted with ethyl acetate. The ethyl acetate layer was washed sequentially with water and brine, dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure to obtain the titled compound (595 mg) as white powder.

reactant | methyl 2-ethoxy-1H-benzimidazole-4-carboxylate | 500 mg | C(C)OC1=NC2=C(N1)C=CC=C2C(=O)OC | C11H12N2O3
reactant | potassium nitrate | 275 mg | [N+](=O)([O-])[O-].[K+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | sulfuric acid | 5 mL | S(O)(O)(=O)=O | H2O4S
product | Methyl 2-ethoxy-6-nitro-1H-benzimidazole-4-carboxylate | 595 mg | C(C)OC1=NC2=C(N1)C=C(C=C2C(=O)OC)[N+](=O)[O-] | C11H11N3O5
